US08461181B2
To a mixture of 0.44 g of 1-butanol and 6 ml of DMF was added 0.24 g of 60% sodium hydride (oily) under ice cool, and the mixture was stirred for 10 minutes. And, 2-(3-fluoropyridin-4-yl-)-1-methyl-5-trifluoromethyl-1H-benzimidazole (0.35 g) was added, then, the mixture was stirred for 1.5 hours at room temperature. Into the reaction mixture was poured a saturated ammonium chloride aqueous solution, and the mixture was extracted three times with ethyl acetate. The organic layer was dried over magnesium sulfate, then, concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, to obtain 0.37 g of 2-(3-butoxypyridin-4-yl-)-1-methyl-5-trifluoromethyl-1H-benzimidazole (hereinafter, referred to as present active compound 206).

reactant | 1-butanol | 0.44 g | C(CCC)O | C4H10O
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | 2-(3-fluoropyridin-4-yl-)-1-methyl-5-trifluoromethyl-1H-benzimidazole | 0.35 g | FC=1C=NC=CC1C1=NC2=C(N1C)C=CC(=C2)C(F)(F)F | C14H9F4N3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 2-(3-butoxypyridin-4-yl-)-1-methyl-5-trifluoromethyl-1H-benzimidazole | 0.37 g | C(CCC)OC=1C=NC=CC1C1=NC2=C(N1C)C=CC(=C2)C(F)(F)F | C18H18F3N3O
